US06313151B1
B. 3-(4-methoxybenzoyl)amino-2-indolecarboxylic acid
To a solution of 3-(4-methoxybenzoyl)amino-2-indolecarboxylic acid ethyl ester (720 mg, 2.13 mmol) in tetrahydrofuran (7 mL) was added 5 N aqueous sodium hydroxide (2 mL). The resulting mixture was stirred for 10 h at room temperature. An additional portion of 5 N aqueous sodium hydroxide (5 mL) was added and the mixture heated at 60° C. for 5 h. The mixture was cooled to room temperature, stirred for 10 h, diluted with water, and extracted with diethyl ether. The aqueous layer was acidified with concentrated hydrochloric acid and extracted with three fresh portions of ethyl acetate. The combined ethyl acetate fractions were dried (sodium sulfate), filtered, and concentrated in vacuo to provide 450 mg (68%) of the title compound as a yellow solid.

reactant | 3-(4-methoxybenzoyl)amino-2-indolecarboxylic acid ethyl ester | 2.13 mmol, 720 mg | C(C)OC(=O)C=1NC2=CC=CC=C2C1NC(C1=CC=C(C=C1)OC)=O | C19H18N2O4
reactant | sodium hydroxide | 5 N, 2 mL | [OH-].[Na+]
reactant | sodium hydroxide | 5 N, 5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(4-methoxybenzoyl)amino-2-indolecarboxylic acid | 450 mg, 68% | COC1=CC=C(C(=O)NC2=C(NC3=CC=CC=C23)C(=O)O)C=C1 | C17H14N2O4
